* C:\Users\cavaz\OneDrive\Documentos\Projetos\Projetos_Python\IC\Alexandria\code\Draft1.asc
V1 N002 0 15
R1 N001 0 1k
V2 N001 N002 20
.tran 1s
.backanno
.end
