* Netlist gerada automaticamente a partir do circuit.json
.tran 1

R1 N001 N002 470.00
R2 N002 N003 3.30k
R3 N002 0 8.20k
R4 N003 N004 100.00k
R5 N005 N004 18.00
R6 0 N004 4.70k
R7 N003 N005 8.20
V1 0 N001 30

.end