* Netlist gerada automaticamente a partir do circuit.json
.tran 1

V1 N001 0 12
R3 N002 N003 2.7k
R4 N003 N004 2.2k
R5 N002 0 10
I1 0 N003 2
R1 N004 0 39
R2 N001 N002 3.9

.end