* Netlist gerada automaticamente a partir do circuit.json
.tran 1

R2 N001 0 2.7
R3 N002 0 56
R1 N003 0 10
R4 N001 N002 1.8
R5 N002 N003 680k
I1 0 N001 12

.end