* Netlist gerada automaticamente a partir do circuit.json
.tran 1

V1 N001 0 9
R2 N003 0 47k
R3 N001 N002 39k
R4 N001 N003 27
R5 N002 0 1.8
R1 N003 N002 10

.end