* Netlist gerada automaticamente a partir do circuit.json
.tran 1

R1 N001 N002 10
R2 N002 N003 3k
R4 N001 0 2k
R5 N003 0 1k
I1 0 N002 10m
R3 N001 N003 8.2

.end