* Netlist gerada automaticamente a partir do circuit.json
.tran 1

R2 N001 N002 2.2k
V1 N001 0 6
R4 N002 N003 330k
R1 N003 N004 10
R3 N003 N005 2.2k
V2 0 N005 10
R5 N004 N005 220

.end
