* Netlist gerada automaticamente a partir do circuit.json
.tran 1

R1 N001 N002 10.00k
R2 N002 N003 22.00
R3 N002 0 8.20k
R4 N003 N004 120.00k
R5 N005 N004 39.00
R6 0 N004 560.00
R7 N003 N005 220.00
V1 0 N001 30

.end